US05145986
Preparation of 2-(3,4-Dichlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile
A solution of N-(3,4-dichlorobenzyl)-2,2,2-trifluoroacetimidoyl chloride (20.0 g, 0.069 mol) and 2-chloroacrylonitrile (7.2 g, 0.082 mol) in N,N-dimethylformamide is cooled to 5° C. and treated with a solution of triethylamine (22 mL, 0.16 mol) in N,N-dimethylformamide (38 mL). When the addition is half complete, the cooling bath is removed and the reaction mixture is treated with the remaining triethylamine solution, stirred for two hours and diluted with water. The aqueous mixture is filtered to obtain the title product as a tan solid (18.38 g, mp 230°-232° C.).

reactant | N-(3,4-dichlorobenzyl)-2,2,2-trifluoroacetimidoyl chloride | 0.069 mol, 20.0 g | ClC=1C=C(CN=C(C(F)(F)F)Cl)C=CC1Cl | C9H5Cl3F3N
reactant | 2-chloroacrylonitrile | 0.082 mol, 7.2 g | ClC(C#N)=C | C3H2ClN
reactant | triethylamine | 0.16 mol, 22 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 38 mL | CN(C=O)C | C3H7NO
product | 2-(3,4-Dichlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 18.38 g | ClC=1C=C(C=CC1Cl)C=1NC(=CC1C#N)C(F)(F)F | C12H5Cl2F3N2
